US08026234B2
Compound 50: 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-(2,2,2-trifluoroethyl)piperidin-4-yl)benzamide
The title compound was synthesized from 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for amide bond synthesis using HATU and 1-N-(2,2,2-trifluoroethyl)piperidin-4-amine. The final compound was purified by reverse phase HPLC and basified to give the free base. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.15-1.44 (m, 4H) 1.55-1.89 (m, 10H) 2.42 (t, J=8.0 Hz, 2H) 2.94 (br. d., 2H) 3.17 (q, J=10.11 Hz, 2H) 3.31 (s, 3H) 3.78 (m, 1H) 3.94 (s, 3H) 4.06 (t, J=13.39 Hz, 2H) 7.47 (d, J=8.0 Hz, 1H) 7.50 (s, 1H) 7.91 (s, 1H) 8.15 (d, J=8.02 Hz, 1H) 8.21 (s, 1H) 8.27 (d, J=8.34 Hz, 1H). Melting point: 213-215° C. [M+H] calculated for C29H36F5N7O3, 626. found 626.

reactant | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C22H25F2N5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-N-(2,2,2-trifluoroethyl)piperidin-4-amine | FC(CN1CCC(CC1)N)(F)F | C7H13F3N2
product | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-(2,2,2-trifluoroethyl)piperidin-4-yl)benzamide | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)CC(F)(F)F)C=C2)OC | C29H36F5N7O3
